US05686482
A 1.00 g portion of 5-chlorosulfonyl-2,4-dimethoxybenzoic acid was added to 5 ml of saturated aqueous ammonia, followed by stirring at room temperature for 1 hour. Then, 6N hydrochloric acid aqueous solution was added to the reaction solution, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.81 g of 5-aminosulfonyl-2,4-dimethoxybenzoic acid.

reactant | 5-chlorosulfonyl-2,4-dimethoxybenzoic acid | ClS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9ClO6S
reactant | ammonia | 5 ml | N | H3N
reactant | hydrochloric acid | 6N | Cl | ClH
product | 5-aminosulfonyl-2,4-dimethoxybenzoic acid | 0.81 g | NS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H11NO6S
